* Modelo obtenido de: https://www.ti.com/jp/lit/an/snoa247b/snoa247b.pdf
*******************************************
*LM6181 CURRENT FEEDBACK OP-AMP MACRO-MODEL
*******************************************
*
*connections:  non-inverting input
*              | inverting input
*              | | positive power supply
*              | | |  negative power supply
*              | | |  |  output
*              | | |  |  |
*              | | |  |  |
.SUBCKT LM6181 1 2 99 50 41
*
*Features: (TYP.)
*High bandwidth = 100 MHz
*High slew rate = 2000 V/microseconds
*Current Feedback Topology
*NOTE: Due to the addition of PSRR effects, model must be operated
*      with symmetrical supply voltages. To avoid this limitation
*      and disable the PSRR effects, see Eos below.
*
********** INPUT STAGE **********
*
GI1 99 5 POLY(1) 99 50 243.75U 2.708E-6
GI2 4 50 POLY(1) 99 50 243.75U 2.708E-6
FI1 99 5 VA3 100
FI2 4 50 VA4 100
Q1 50 3 5 QPN
Q2 99 3 4 QNN
GR1 5 6 5 6 2.38E-4
*M 4.2K noiseless resistor
C1 6 99 .468P
GR2 4 7 4 7 2.38E-4
*M 4.2K noiseless resistor
C2 7 50 .468P
GR3 99 8 99 8 1.58E-3
*M 633ohm noiseless resistor
V1 99 10 .3
RE1 10 30 130
D1 30 8 DX
GR4 50 9 50 9 1.58E-3
*M 633ohm noiseless resistor
V2 11 50 .3
RE2 11 31 150
D2 9 31 DX
Q3 8 6 2 QNI
Q4 9 7 2 QPI
DS1 3 12 DY
VA3 12 5 0
DS2 13 3 DY
VA4 4 13 0
GR6 1 99 1 99 5E-8
*M 20MEG noiseless resistor
GR7 1 50 1 50 5E-8
*M 20MEG noiseless resistor
GB1 1 99 POLY(2) 99 50 56 0 -1.2E-6 4E-8 1E-3
FN1 1 0 V18 1
GB2 99 2 POLY(3) 99 50 1 49 55 0 18.5E-6 -1.5E-7 -1E-7 -1E-6
FN2 2 0 V17 1
EOS 3 1 POLY(5) 99 50 45 0 47 0 57 0 59 61 -2.8E-3 9.3E-5 1 1 1 1
*To run on asymmetrical supplies, change to 0............. M M
CIN1 1 0 2P
CIN2 2 0 5.75P
*
******** SECOND STAGE **********
*
I3 99 50 4.47M
R8 99 49 7.19K
R9 49 50 7.19K
V3 99 16 1.7
D3 15 16 DX
D4 17 15 DX
V4 17 50 2.0
EH 99 98 99 49 1
G1 98 15 POLY(2) 99 8 50 9 0 1.58E-3 1.58E-3
*Fp1 = 27.96 KHz
R5 98 15 2.372MEG
C3 98 15 2.4P
*
********* POLE STAGE ***********
*
*Fp = 250 MHz
G2 98 20 15 49 1E-3
R14 98 20 1K
C4 98 20 .692P
*
********* POLE STAGE ***********
*
*Fp = 250 MHz
G3 98 21 20 49 1E-3
R15 98 21 1K
C5 98 21 .692P
*
********* POLE STAGE ***********
*
*Fp = 275 MHz
G4 98 22 21 49 1E-3
R16 98 22 1K
C6 98 22 .5787P
*
********* POLE STAGE ***********
*
*Fp = 500 MHz
G5 98 23 22 49 1E-3
R17 98 23 1K
C7 98 23 .3183P
*
********* PSRR STAGE ***********
*
G10 0 45 99 0 1.413E-4
L3 44 45 26.53U
R25 44 0 10
RL3 44 45 10K
G11 0 47 50 0 1.413E-4
L4 46 47 2.27364U
R26 46 0 10
RL4 46 47 10K
*
******** THERMAL EFFECTS **********
*
I12 0 55 1
R27 0 55 10 TC = 3.453E-3 7.93E-5
I13 0 56 1E-3
R28 0 56 1.5 TC = 9.303E-4 8.075E-5
I14 0 57 1E-3
R29 0 57 3.34 TC = 3.111E-3
*
********* NOISE SOURCES ***********
*
V15 58 0 .1
D9 58 59 DN
R30 59 0 726.4
V16 60 0 .1
D10 60 61 DN
R31 61 0 726.4
V17 62 0 0
R32 62 0 73.6
V18 63 0 0
R33 63 0 1840
*
********* OUTPUT STAGE ***********
*
F6 99 50 VA7 1
F5 99 35 VA8 1
D7 36 35 DX
VA7 99 36 0
D8 35 99 DX
E1 99 37 99 23 1
VA8 37 38 0
R35 38 40 50
V5 33 40 5.3V
D5 23 33 DX
V6 40 34 5.3V
D6 34 23 DX
CF1 41 2 2.1P
L5 40 41 31N
RL5 40 41 100K
*
********* MODELS USED ***********
*
.MODEL QNI NPN(IS = 1E-14 BF = 10E4 VAF = 62.9 KF = 6.7E-14)
.MODEL QPI PNP(IS = 1E-14 BF = 10E4 VAF = 62.9 KF = 6.7E-14)
.MODEL QNN NPN(IS = 1E-14 BF = 10E4 VAF = 62.9 KF = 4.13E-13)
.MODEL QPN PNP(IS = 1E-14 BF = 10E4 VAF = 62.9 KF = 4.13E-13)
.MODEL DX D(IS = 1E-15)
.MODEL DY D(IS = 1E-17)
.MODEL DN D(KF = 1.667E-9 AF = 1 XTI = 0 EG = .3)
.ENDS